2191-05-01 09:55:00 Physician Attending Progress Note
Chief Complaint: Acute hypercarbic respiratory failure
   HPI: 86 year-old woman with recent aspiration pneumonia, AF/RVR, and
   hypotension requiring fluid.  Last night agitated, got 0.5mg ativan,
   then 15 minutes later unresponsive with ph 7.26/50 and still with
   AF/RVR/
   On arrival to ICU got BIPAP and did well.  7.38/45.  More clear.  CXR
   with fluid overload, on a lasix drip.  Got dig overnight and has done
   well.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2191-5-1**] 03:00 AM
 PICC LINE - START [**2191-5-1**] 03:03 AM
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2191-5-1**] 04:09 AM
   Other medications: heparin, NAC nebs, atrovent, valproic acid, lasix,
   perphenazine, ASA 325mg, plavix, PPI, Effexor, lasix ggt at 1mg/hour,
   met 10mg q 6, cefepime
   Changes to medical and family history: Proven aspiration risk
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-1**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 106 (96 - 128) bpm
   BP: 93/81(84) {93/56(70) - 132/81(89)} mmHg
   RR: 34 (17 - 35) insp/min
   SpO2: 100% on Shovel mask
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             98 mL
   PO:
             TF:
   IVF:
   98 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    520 mL
   Urine:
   520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -422 mL
   Respiratory support: Shovel mask
   Physical Examination
   Tachypneic, responsive to voice and touch with groaning, does not
   follow commands.  Right pupil smaller than left, reactive.  MMM.  JVP 7
   (at upright angle).  Lungs with small tidal volumes, mostly clear.  No
   wheeze.  Irreg irreg.  Abdomen with hernia.  Legs cool, 1+ edema.
   Labs / Radiology
   10.0 g/dL
   272 K/uL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.9 mEq/L
   25 mg/dL
   109 mEq/L
   143 mEq/L
   31.5 %
   14.7 K/uL
        [image002.jpg] 7.38/55/78
                             [**2191-5-1**]  03:03 AM
                             [**2191-5-1**]  04:28 AM
   WBC
   14.7
   Hct
   31.5
   Plt
   272
   Cr
   0.6
   TCO2
   34
   Glucose
   119
   Other labs: PT / PTT / INR:14.0/36.6/1.2, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]): hypercarbic.  Acute on
   chronic, triggered by Ativan.  Off BiPAP.  Diuresis.  Trial of 10mg of
   Lasix, goal negative 1 L.
 ATRIAL FIBRILLATION (AFIB): paroxysmal.  Got dig with good response.
   Add dig .125 per day, check dig levels daily.  Consider increasing
   dosing frequency of lopressor.  Unclear benefit of addition of plavix
   in terms of stroke risk.  [**Month (only) 8**] need procedure (PEG tube).  Would hold
   for now.
   Aspiration Risk: Place NGT and start TFs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM, 1 PIV
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments: spoke with guardian
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Total time spent: 30 mins

2191-05-02 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2191-5-1**] 06:00 PM
 EKG - At [**2191-5-1**] 10:30 PM
 NON-INVASIVE VENTILATION - START [**2191-5-1**] 11:00 PM
   -Lasix gtt d/c'd and given 10mg IV lasix x2 with good urine output
   -Mental status improved with holding sedatives and BIPAP overnight on
   [**4-30**], Bipap d/c'd in the morning with stable mental status
   -Started on digoxin for Afib
   -Plavix d/c'd given likely will need PEG placement, PCP [**Last Name (NamePattern4) **].[**Last Name (STitle) 5888**]
   notified by email
   -NG tube replaced and tube feeds restarted
   -Flash pulmonary edema with wheezing and desaturation to the mid 80's,
   also with RVR, given metoprolol 10mg IV, lasix 20mg IV and morphine
   0.5mg IV and placed on Bipap with good effect.  Given additional 20mg
   IV lasix in the morning
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-1**] 10:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2191-5-1**] 10:19 PM
   Morphine Sulfate - [**2191-5-1**] 10:35 PM
   Furosemide (Lasix) - [**2191-5-2**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 106 (89 - 121) bpm
   BP: 116/98(103) {84/40(53) - 128/98(104)} mmHg
   RR: 28 (19 - 34) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    698 mL
                                                                    213 mL
   PO:
             TF:
                                                                    112 mL
   IVF:
                                                                    296 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,960 mL
   Urine:
                                                                  2,520 mL
                                                                  1,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,822 mL
                                                                 -1,747 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 91%
   ABG: 7.41/53/82.[**Numeric Identifier 253**]/36/6
   Ve: 8 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: awake, alert oriented x3
   CV: irregularly irregular, no appreciable murmur
   Lungs: diffuse expiratory wheezing and ronchi, decreased breath sounds
   at bases
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Labs / Radiology
   240 K/uL
   8.7 g/dL
   97 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.7 mEq/L
   19 mg/dL
   101 mEq/L
   143 mEq/L
   27.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2191-5-1**]  03:03 AM
                             [**2191-5-1**]  04:28 AM
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
   WBC
   14.7
   11.5
   Hct
   31.5
   27.5
   Plt
   272
   240
   Cr
   0.6
   0.6
   0.6
   TropT
   0.06
   0.02
   TCO2
   34
   35
   Glucose
   119
   111
   97
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:43//0.02, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure
   .
   #Hypercarbic respiratory failure- triggered by benzodiazepine and heart
   failure given positive fluid balance since admission and CXR showing
   gross overload.
   - continue cefepime to complete for aspiration pna, off vanco and levo
   - BIPAP prn -> facemask if tolerates
   - monitor ABG
   - no sedating medications
   - diurese with lasix gtt, goal 1 liter negative
   - control heart rate
   - patient full code per discussion with PCP [**2191-4-26**]
   - PM lytes, chest PT
   - NG suctioning prn
   - Send sputum
   .
   #Paroxysmal Atrial fibrillation - she was in RVR on admission with rate
   in th 150's responded to IV metoprolol x2.  In and out of Afib on
   arrival to the floor.  Likely exacerbated by acute infection on
   admission.
   -cont IV lopressor
   -added digoxin
   -not on anticoagulation at baseline
   -continue ASA 325
   .
   #Schizophrenia - stable
   -continue depakote and perphenazine
   .
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow
   - strict NPO
   - may need PEG longterm -> discuss with PCP
   .
   # UTI- no symptoms, but positve UA growing sensitive Klebsiella
   - will be covered by cefepime
   .
   # Anemia- currently stable, may have been volume shifts. stable
   # Schizophrenia - stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   .
   Access: PICC
   FEN: NPO, failed video swallow, NGT placed
   PPX: heparin sq, bowel reg prn, not on ppi
   .
   Code status: full
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**],
   called and left message with guardian last night
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2191-05-03 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Responded well to chest PT and NG suctioning
   - Was very negative after nighttime lasix (-2L)
   - BP ran low during the day (systolic 80s, MAP >60)  asymptomatic.
   Held further diuresis given she was so negative
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-2**] 09:59 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-2**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-3**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 94 (86 - 123) bpm
   BP: 94/45(57) {74/45(57) - 137/97(101)} mmHg
   RR: 21 (16 - 34) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    999 mL
                                                                    364 mL
   PO:
                  TF:
                                                                    259 mL
                                                                    274 mL
   IVF:
                                                                    270 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                    135 mL
   Urine:
                                                                  3,015 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,016 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (240 - 320) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 60%
   SpO2: 89%
   ABG: ///33/
   Physical Examination
   Gen: awake, alert oriented, sitting in chair with NRB
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: diffuse expiratory wheezing and ronchi, decreased breath sounds
   2/3 up
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Labs / Radiology
   256 K/uL
   9.1 g/dL
   106 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   143 mEq/L
   27.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2191-5-1**]  03:03 AM
                             [**2191-5-1**]  04:28 AM
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
   WBC
   14.7
   11.5
   9.3
   10.4
   Hct
   31.5
   27.5
   27.1
   27.7
   Plt
   272
   240
   238
   256
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   0.06
   0.02
   0.02
   TCO2
   34
   35
   Glucose
   119
   111
   97
   94
   106
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure
   .
   #Hypercarbic respiratory failure- triggered by benzodiazepine and heart
   failure given positive fluid balance since admission and CXR showing
   gross overload.
   - continue cefepime to complete for aspiration pna, off vanco and levo
   - BIPAP prn -> facemask if tolerates
   - monitor ABG
   - no sedating medications
   - diurese with lasix gtt, goal 1 liter negative
   - control heart rate
   - patient full code per discussion with PCP [**2191-4-26**]
   - PM lytes, chest PT
   - NG suctioning prn
   - Send sputum
   .
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. She was in
   RVR on admission with rate in th 150's responded to IV metoprolol x2.
   In and out of Afib on arrival to the floor.  Likely exacerbated by
   acute infection on admission.
   -cont IV lopressor
   -added digoxin
   -not on anticoagulation at baseline
   -continue ASA 325
   .
   #Schizophrenia - stable
   -continue depakote and perphenazine
   .
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow
   - strict NPO
   - may need PEG longterm -> discuss with PCP
   .
   # UTI- no symptoms, but positve UA growing sensitive Klebsiella
   - will be covered by cefepime
   .
   # Anemia- currently stable, may have been volume shifts. stable
   # Schizophrenia - stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   .
   Access: PICC
   FEN: NPO, failed video swallow, NGT placed
   PPX: heparin sq, bowel reg prn, not on ppi
   .
   Code status: full
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**],
   called and left message with guardian last night
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2191-5-2**] 10:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   - decreased Metoprolol 25mg TID to 12.5mg TID given low BP and now on
   digoxin as well
   ------ Protected Section Addendum Entered By:[**Name (NI) 5895**] [**Last Name (NamePattern1) **], MD
   on:[**2191-5-3**] 10:16 ------

2191-05-03 10:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - diuresed 2L
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-2**] 09:59 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-3**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 88 (86 - 113) bpm
   BP: 104/44(67) {74/38(57) - 137/97(101)} mmHg
   RR: 24 (16 - 33) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    999 mL
                                                                    573 mL
   PO:
             TF:
                                                                    259 mL
                                                                    374 mL
   IVF:
                                                                    270 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                    150 mL
   Urine:
                                                                  3,015 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,016 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 320) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 87%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   256 K/uL
   106 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   143 mEq/L
   27.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2191-5-1**]  03:03 AM
                             [**2191-5-1**]  04:28 AM
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
   WBC
   14.7
   11.5
   9.3
   10.4
   Hct
   31.5
   27.5
   27.1
   27.7
   Plt
   272
   240
   238
   256
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   0.06
   0.02
   0.02
   TCO2
   34
   35
   Glucose
   119
   111
   97
   94
   106
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   - hypercarbic
   -Acute on chronic, decompensation likely triggered by Ativan
   -Off BiPAP
   -cefipime for presumed asp PNA
   -diuresed 2L yesterday Trial of 10mg of Lasix, goal negative 1 L.
   -CXR looks worse today despite diuresis.  ? related to no bipap,
   positive pressure.
   -avoid sedating meds
 ATRIAL FIBRILLATION (AFIB):
   -paroxysmal
   -dig .125 per day, check dig levels daily
   -lopressor
   -not on anticoagulation at baseline
   -cont ASA
   Aspiration Risk:
   Nut
   -verify placement
   - TF
   Schizophrenia
   - stable
   -continue depakote and perphenazine
   Aspiration
   -failed video swallow
   - strict NPO
   UTI
   - klebs.  asymptomatic.
   - covered by cefepime
    Anemia
   - currently stable
   Hypertension
   Lower extremity edema
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2191-5-2**] 10:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Pt is critically ill.
   Time spent on care
 35minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2191-5-3**] 10:58 ------

2191-05-04 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hypoxic in the am and placed on Bipap
   - weaned off Bipap in the afternoon and sat'ing well
   - U/S showed small left pleural effusion, did not tap
   - BB decreased, BP improved
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-4**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 97 (82 - 115) bpm
   BP: 125/50(67) {80/38(55) - 140/87(101)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,100 mL
                                                                    479 mL
   PO:
             TF:
                                                                    500 mL
                                                                    374 mL
   IVF:
                                                                    210 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    345 mL
   Urine:
                                                                    500 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   PS : 14 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: 7.48/61/54/38/18
   Ve: 5 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Gen: awake, alert oriented, sitting in chair with NRB
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: diffuse expiratory wheezing and ronchi, decreased breath sounds
   2/3 up
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   8.6 g/dL
   114 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.0 mEq/L
   23 mg/dL
   100 mEq/L
   143 mEq/L
   27.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2191-5-1**]  03:03 AM
                             [**2191-5-1**]  04:28 AM
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
   WBC
   14.7
   11.5
   9.3
   10.4
   9.9
   Hct
   31.5
   27.5
   27.1
   27.7
   27.5
   Plt
   272
   240
   238
   256
   268
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   0.06
   0.02
   0.02
   TCO2
   34
   35
   47
   Glucose
   119
   111
   97
   94
   106
   114
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: MRSA SCREEN: Pending
   CXR: slightly improved compared to [**5-3**]; however, still with bilateral
   pleural effusions
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   Paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure
   .
   #Hypercarbic respiratory failure- Improving.  triggered by
   benzodiazepine and heart failure given positive fluid balance since
   admission and CXR showing fluid overload.
   - was on  cefepime to complete for aspiration pna, off vanco and levo:
   has now completed 12 days of cefepime, will Dc today
   - BIPAP prn -> facemask if tolerates
   - monitor ABG
   - no sedating medications
   - gentle diuresis given contraction alkalosis, even to 500cc neg daily
   - control heart rate
   - patient full code per discussion with PCP [**2191-4-26**]
   - PM lytes, chest PT
   - NG suctioning prn
   .
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.  In and out of Afib on arrival to the
   floor.
   -cont IV lopressor
   -added digoxin
   -not on anticoagulation at baseline
   -continue ASA 325
   .
   #Schizophrenia - stable
   -continue depakote and perphenazine
   .
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow
   - strict NPO
   - may need PEG long term -> discuss with PCP
   .
   # UTI- no symptoms, but positve UA growing sensitive Klebsiella
   - will be covered by cefepime
   .
   # Anemia- currently stable, may have been volume shifts. stable
   # Schizophrenia - stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   .
   Access: PICC
   FEN: NPO, failed video swallow, NGT placed
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2191-5-3**] 10:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer:
   Communication:  with patient , [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or
   [**Telephone/Fax (1) 5692**], called and left message with guardian
   [**Name (NI) 156**] status: Full code
   Disposition: in ICU until resp status improves

2191-05-04 11:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - hypoxic yesterday morning - required bipap for most of morning
   -u/s of chest - small pleural effusion.  not amenable to tap.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-4**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 94 (86 - 115) bpm
   BP: 104/57(68) {92/45(58) - 140/87(101)} mmHg
   RR: 27 (17 - 44) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,100 mL
                                                                    833 mL
   PO:
             TF:
                                                                    500 mL
                                                                    553 mL
   IVF:
                                                                    210 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    585 mL
   Urine:
                                                                    500 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: bronchial
   lt base, decreased in rt base: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   268 K/uL
   114 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.0 mEq/L
   23 mg/dL
   100 mEq/L
   143 mEq/L
   27.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2191-5-1**]  03:03 AM
                             [**2191-5-1**]  04:28 AM
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
   WBC
   14.7
   11.5
   9.3
   10.4
   9.9
   Hct
   31.5
   27.5
   27.1
   27.7
   27.5
   Plt
   272
   240
   238
   256
   268
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   0.06
   0.02
   0.02
   TCO2
   34
   35
   47
   Glucose
   119
   111
   97
   94
   106
   114
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   - hypercarbic
   -Acute on chronic, decompensation likely triggered by sedating meds
   -still requiring bipap intermittently for resp decomps
   -cefipime for presumed asp PNA
   -cont diurese as tolerated
   -CXR looks worse today despite diuresis.  ? related to no bipap,
   positive pressure.
   -avoid sedating meds
 ATRIAL FIBRILLATION (AFIB):
   -paroxysmal
   -dig .125 per day
   -lopressor
   -not on anticoagulation at baseline
   -cont ASA
   Aspiration Risk:
   Nut
   -verify placement
   - TF
   Schizophrenia
   - stable
   -continue depakote and perphenazine
   Aspiration
   -failed video swallow
   - strict NPO
   UTI
   - klebs.  asymptomatic.
   - covered by cefepime
    Anemia
   - currently stable
   Hypertension
   Lower extremity edema
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2191-5-3**] 10:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Patient is critically ill.
   Total time spent: 40 minutes

2191-05-05 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-4**]
   - Maintained sats throughout the day and was alert
   - gave 20 IV lasix in PM and pt was 1L neg at 9PM
   - this AM was slightly more somnolent but oriented X person and place.
   ABG 7.46/68/71
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-5-4**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2191-5-4**] 08:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-5**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 100 (88 - 119) bpm
   BP: 101/46(60) {95/39(55) - 133/74(86)} mmHg
   RR: 26 (17 - 44) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,860 mL
                                                                    448 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    345 mL
   IVF:
                                                                    240 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    370 mL
   Urine:
                                                                  2,955 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,095 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.46/68/71/41/20
   PaO2 / FiO2: 142
   Physical Examination
   Gen: awake, alert oriented, sitting in chair with facemask
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: decreased breath sounds at bases bilaterally
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   8.8 g/dL
   98 mg/dL
   0.6 mg/dL
   41 mEq/L
   4.0 mEq/L
   21 mg/dL
   98 mEq/L
   144 mEq/L
   27.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
   WBC
   11.5
   9.3
   10.4
   9.9
   9.7
   Hct
   27.5
   27.1
   27.7
   27.5
   27.9
   Plt
   [**Telephone/Fax (3) 5934**]68
   283
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TropT
   0.06
   0.02
   0.02
   TCO2
   35
   47
   50
   Glucose
   111
   97
   94
   106
   114
   98
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   #Hypercarbic respiratory failure- Improving.  triggered by
   benzodiazepine and heart failure given positive fluid balance since
   admission and CXR showing fluid overload.
   - completed 12 day course cefepime on [**5-4**] and has remained afebrile
   - continue facemask, wean supplemental O2 as tolerated
   - gentle diuresis given contraction alkalosis, even to 500cc neg daily
   - goal I/O: even today
   - continue chest PT and NG suctioning prn
   - no sedating medications
   - control heart rate
   - patient full code per discussion with PCP [**2191-4-26**]
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   -cont IV lopressor, digoxin, ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1, apprec speech and swallow repeat eval today
   - strict NPO
   - if fails repeat S&S then may need PEG long term --> discuss with PCP
   # UTI- completed abx course
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   ICU Care
   Nutrition: NPO, failed video swallow, NGT placed
   Nutren Pulmonary (Full) - [**2191-5-5**] 12:00 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: Boots, SQ Heparin
   Stress ulcer: PO PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2191-05-05 08:41:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU Resident for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   24 Hour Events:  Maintained sats no need for Bipap.  Received 20mg of
   lasix over night.  Some somulence at 6:00am gas unchanged.  No other
   events.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-5-4**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2191-5-4**] 08:59 PM
   Other medications:
   hep 5k
   atrovent q6
   Valproic acid
   Perphenazine 6mg qday
   asa 325
   MVI
   lansoprazole
   [**Doctor First Name **]
   colace
   digoxin .125
   metoprolol 12.5
   Changes to medical and family history: PMH, SH, FH and ROS are
   unchanged from Admission except where noted above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: see resident note no complaints.
   Flowsheet Data as of  [**2191-5-5**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 100 (88 - 119) bpm
   BP: 101/46(60) {95/39(55) - 133/74(86)} mmHg
   RR: 26 (17 - 44) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,860 mL
                                                                    524 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    408 mL
   IVF:
                                                                    240 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    370 mL
   Urine:
                                                                  2,955 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,095 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.46/68/71/41/20
   PaO2 / FiO2: 142
   Physical Examination:
   General Appearance: Well nourished Head, Ears, Nose, Throat:
   Normocephalic Cardiovascular: (S1: Normal), (S2: Normal)Peripheral
   Vascular: (Right radial pulse: Not assessed), (Left radial pulse: Not
   assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   bronchial lt base, decreased in rt base: )Abdominal: Soft, Non-tender,
   Bowel sounds presentSkin:  Not assessedNeurologic: Attentive, Follows
   simple commands, more sleepy. No focal deficitis.
   Labs / Radiology: Chest bilateral effusions LLL opacity improved
   overall.
   8.8 g/dL
   283 K/uL
   98 mg/dL
   0.6 mg/dL
   41 mEq/L
   4.0 mEq/L
   21 mg/dL
   98 mEq/L
   144 mEq/L
   27.9 %
   9.7 K/uL
        [image002.jpg]
   7.46/68/71
                             [**2191-5-1**]  11:29 AM
                             [**2191-5-1**]  06:12 PM
                             [**2191-5-1**]  10:34 PM
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
   WBC
   11.5
   9.3
   10.4
   9.9
   9.7
   Hct
   27.5
   27.1
   27.7
   27.5
   27.9
   Plt
   [**Telephone/Fax (3) 5934**]68
   283
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TropT
   0.06
   0.02
   0.02
   TCO2
   35
   47
   50
   Glucose
   111
   97
   94
   106
   114
   98
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   - hypercarbic  stable
   -Acute on chronic, decompensation likely triggered by sedating meds
    -cefipime for presumed asp PNA completed
   -cont diurese as tolerated ATRIAL FIBRILLATION (AFIB)
   -paroxysmal
   -dig .125 per day
   -lopressor
   -not on anticoagulation at baseline
   -cont ASA
   -Will check US.
   Metabolic alkaosis-
   Suspect portion of contraction
   Will consider diamox.
   Aspiration Risk:
   -verify placement
   - TF
   Schizophrenia
   - stable
   -continue depakote and perphenazine
   Aspiration
   -failed video swallow  will re-evaluate today
   - strict NPO
   UTI
   - klebs.  asymptomatic.
   - Treated with cefepime
    Anemia
   - currently stable
   Hypertension
   Lower extremity edema
   DispO; ICU today and PT today possible floor later today or tomorrow.
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-5**] 12:00 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-05-06 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Held Lasix and started Acetazolamide for diuresis given alkalosis
   - Had hypoxia and tachycardia: ABG improved, ECG w/o strain, improved
   on own
   - Spoke w/ PCP [**Last Name (NamePattern4) **]: long-term nutrition goal, felt J-tube reasonable
   - Increased Lopressor dose given atrial fibrillation and tachycardia
   - U/S showed left pleural effusion possibly loculated
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsSulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-5**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-6**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 95 (84 - 118) bpm
   BP: 112/58(71) {79/24(43) - 134/102(109)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,549 mL
                                                                    428 mL
   PO:
             TF:
                                                                    894 mL
                                                                    353 mL
   IVF:
                                                                    265 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                  1,280 mL
   Urine:
                                                                  2,035 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -486 mL
                                                                   -852 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.48/59/104/34/17
   PaO2 / FiO2: 149
   Physical Examination
   Gen: awake, alert oriented, lying in bed with facemask
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: decreased breath sounds at bases bilaterally L>R, no rhonchi or
   crackles, + tachpnea
   Abd: soft, ventral hernia, non tender
   Ext: no edema,
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   - CXR: worsening left effusion
   271 K/uL
   8.7 g/dL
   100 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   19 mg/dL
   103 mEq/L
   142 mEq/L
   27.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
   WBC
   11.5
   9.3
   10.4
   9.9
   9.7
   8.7
   Hct
   27.5
   27.1
   27.7
   27.5
   27.9
   27.5
   Plt
   [**Telephone/Fax (2) 5956**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   0.02
   0.02
   TCO2
   47
   50
   45
   Glucose
   97
   94
   106
   114
   98
   107
   100
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   #Hypercarbic respiratory failure- Improving.  triggered by
   benzodiazepine and heart failure given positive fluid balance since
   admission and CXR showing fluid overload.
   - completed 12 day course cefepime on [**5-4**] and has remained afebrile
   - continue facemask, wean supplemental O2 as tolerated
   - gentle diuresis given contraction alkalosis, even to 500cc neg daily
   - will U/S again and likely perform thoracentesis given worsening
   effusion on CXR
   - continue chest PT and NG suctioning prn
   - no sedating medications
   - control heart rate, inc BB to metoprolol 25 TID
   - patient full code per discussion with PCP [**2191-4-26**]
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   -inc lopressor to 25 TID
   - cont  digoxin, ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1, apprec speech and swallow repeat eval today
   - strict NPO
   - may need to place J- tube per discussion of PCP
   # UTI- completed abx course
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-6**] 02:12 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-05-06 10:29:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2191-5-5**] 02:00 PM
   -US effusion
   -progress weaning FiO2 but requiring more this morning
   -diuresed
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-5**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-6**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 83 (83 - 115) bpm
   BP: 101/47(61) {79/24(43) - 133/102(109)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,549 mL
                                                                    584 mL
   PO:
             TF:
                                                                    894 mL
                                                                    482 mL
   IVF:
                                                                    265 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                  1,900 mL
   Urine:
                                                                  2,035 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -486 mL
                                                                 -1,316 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.48/59/104/34/17
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   271 K/uL
   100 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   19 mg/dL
   103 mEq/L
   142 mEq/L
   27.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2191-5-2**]  03:45 AM
                             [**2191-5-2**]  11:43 AM
                             [**2191-5-3**]  02:36 AM
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
   WBC
   11.5
   9.3
   10.4
   9.9
   9.7
   8.7
   Hct
   27.5
   27.1
   27.7
   27.5
   27.9
   27.5
   Plt
   [**Telephone/Fax (3) 5956**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   0.02
   0.02
   TCO2
   47
   50
   45
   Glucose
   97
   94
   106
   114
   98
   107
   100
   Other labs: PT / PTT / INR:14.2/33.0/1.2, CK / CKMB /
   Troponin-T:39//0.02, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory
   -hypercarbic
   -Acute on chronic, decompensation likely triggered by sedating meds
   -cefipime for presumed asp PNA completed
   -cont diurese as tolerated
   ATRIAL FIBRILLATION (AFIB)
   -dig
   -lopressor
   -not on anticoagulation at baseline
   -cont ASA
   Lt lung near white-out
   -slight shift to Lt - ? element collapse/plugging
   -also has sig Lt pleural effusion
   -re: US and drain effusion
   -suctioning and chest PT
   [**Name (NI) 5960**]
   -Increased today will initiate trial of diamox to reduce Co2
   -Avoid sedating meds
   Metabolic acidosis
   -Suspect portion of contraction
   -Responding nicely to diamox
   Aspiration
   -Ng
   -Tube feeds
   -Will consider Peg
   -Repeat swallow study today
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine
   -If still somulent with diamox will consider decreasing
   Perphenazine/Psyc consult.
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-6**] 02:12 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-05-07 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2191-5-6**] 05:05 PM
   1.2 liters serous, straw colored fluid off.  Sent for cultures.
   - received two more doses of diamox
   - post-tap CXR still with moderate effusion
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-6**] 08:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-7**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 95 (73 - 101) bpm
   BP: 119/53(69) {82/38(51) - 124/70(98)} mmHg
   RR: 26 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,131 mL
                                                                    507 mL
   PO:
             TF:
                                                                    541 mL
                                                                    368 mL
   IVF:
                                                                    290 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                    660 mL
   Urine:
                                                                  2,820 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
                                                                  1,200 mL
   Balance:
                                                                 -2,889 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.38/59/66/29/7
   PaO2 / FiO2: 110
   Physical Examination
   Gen: awake, alert oriented, lying in bed with facemask, + cough with
   secretions
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: decreased breath sounds at bases bilaterally L>R, bronchial
   breath sounds at left base + tachpnea with exertion,
   Abd: soft, ventral hernia, non tender
   Ext: no edema,
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   296 K/uL
   8.8 g/dL
   101 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   21 mg/dL
   105 mEq/L
   141 mEq/L
   28.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
   WBC
   9.9
   9.7
   8.7
   9.3
   Hct
   27.5
   27.9
   27.5
   28.7
   Plt
   [**Telephone/Fax (3) 5974**]96
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   47
   50
   45
   38
   36
   Glucose
   114
   98
   107
   100
   101
   Other labs: PT / PTT / INR:12.7/46.4/1.1, CK / CKMB /
   Troponin-T:39//0.02, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:323
   IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Pleural Fluid
   Chemistry
   Protein  1.7
   Glucose  107
   LD(LDH): 85
   Albumin: <1.0
   WBC  965
   RBC  515
   Poly  0
   Lymph  58
   Mono  0
   EOs
   Plasma: 4
   Meso: 7
   Macro: 28
   Other: 3
   Imaging: [**5-6**]: CXR with improvement in effusion
   Microbiology: Pleural fluid: pending, gram stain negative
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic.  Sever
   PNA. ? heart failure given positive fluid balance since admission  and
   CXR showing fluid overload as well as effusion. Transudative effusion,
   but little improvement post- throacentesis.
   - completed 12 day course cefepime on [**5-4**] and has remained afebrile
   - continue facemask, wean supplemental O2 as tolerated
   - keep even for I/O
   - will obtain CT chest today to evaluate for trapped lung
   - consider bronchoscopy
   - continue chest PT and NG suctioning prn
   - no sedating medications
   - control heart rate, inc BB to metoprolol 25 TID
   - patient full code per discussion with PCP [**2191-4-26**]
   .
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   -inc lopressor to 25 TID
   - cont  digoxin, ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - may need to place J- tube per discussion of PCP
   # UTI- completed abx course
   - check repeat U/A today given mental status not at baseline
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-6**] 06:30 PM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-05-07 10:30:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 THORACENTESIS - At [**2191-5-6**] 05:05 PM Gram stain negative
   transudative fluid.
   Placed on bipap for short period of time last night.
   1.2 liters serous, straw colored fluid off.  Sent for cultures.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-6**] 08:58 PM
   Other medications:
   atrovent q6
   valproic acid
   perpehenazine
   MVI
   lansoprazole
   colace
   dig .125
   asa
   metoprolol 25 three times a day
   [**Doctor First Name **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-7**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 93 (73 - 101) bpm
   BP: 96/43(57) {82/30(50) - 124/70(98)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,131 mL
                                                                    749 mL
   PO:
             TF:
                                                                    541 mL
                                                                    494 mL
   IVF:
                                                                    290 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                    960 mL
   Urine:
                                                                  2,820 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
                                                                  1,200 mL
   Balance:
                                                                 -2,889 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 266 (266 - 266) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/59/66/29/7
   Ve: 7.7 L/min
   PaO2 / FiO2: 110
   Physical Examination General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   296 K/uL
   101 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   21 mg/dL
   105 mEq/L
   141 mEq/L
   28.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2191-5-3**]  10:47 AM
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
   WBC
   9.9
   9.7
   8.7
   9.3
   Hct
   27.5
   27.9
   27.5
   28.7
   Plt
   [**Telephone/Fax (3) 5974**]96
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   47
   50
   45
   38
   36
   Glucose
   114
   98
   107
   100
   101
   Other labs: PT / PTT / INR:12.7/46.4/1.1, CK / CKMB /
   Troponin-T:39//0.02, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:323
   IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Micro-Gram stain fluid negative.
   Assessment and Plan
   Respiratory
   -hypercarbic
   -Acute on chronic, decompensation likely triggered by sedating meds
   -cefipime for presumed asp PNA completed
   -cont diurese as tolerated
   ATRIAL FIBRILLATION (AFIB)
   -dig
   -lopressor
   -not on anticoagulation at baseline
   -cont ASA
   Lt lung near white-out improved status post tap
   -slight shift to Lt - ? element collapse/plugging
   -re: US and drain effusion which is transudative
   -suctioning and chest PT
   -Will scan today and consider tap
   Somulence
   -improved today will initiate trial of diamox to reduce Co2
   -Avoid sedating meds
   Metabolic alkalosis
   -Suspect portion of contraction
   -Responding nicely to diamox will stop.
   Aspiration
   -Ng
   -Tube feeds
   -Will consider Peg
   -Repeat swallow study today
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine
   -If still somulent with diamox will consider decreasing
   Perphenazine/Psyc consult.
   Will have meeting with guardian to discuss PEG and possible
   bronchoscopy pending CT scan.
   Remainder of plan per resident note.
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-6**] 06:30 PM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-05-08 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2191-5-7**] 02:10 PM
 BRONCHOSCOPY - At [**2191-5-7**] 04:10 PM
 INVASIVE VENTILATION - START [**2191-5-7**] 04:15 PM
 INVASIVE VENTILATION - STOP [**2191-5-7**] 04:45 PM
 NON-INVASIVE VENTILATION - START [**2191-5-8**] 02:55 AM
   - CT chest revealed large plug in left mainstem with LLL collapse
   - pt intubated electively for bronch which did not reveal obvious
   mucous plugging, extubated immediately afterwards
   - spoke to guardian re: [**Name2 (NI) 1023**] and she wants to come in and talk to [**Known firstname 3056**]
   about this decision on Sunday
   - received 250 cc IVF for SBP high 80's
   - did bipap with improvement of mental status
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2191-5-8**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 88 (81 - 109) bpm
   BP: 124/40(61) {87/30(50) - 143/98(98)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,488 mL
                                                                    610 mL
   PO:
             TF:
                                                                    698 mL
                                                                    355 mL
   IVF:
                                                                    490 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    245 mL
   Urine:
                                                                  1,660 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 6.3 L/min
   Physical Examination
   Gen: less awake but responsive to stimuli, alert oriented, lying in bed
   with facemask, +cough with secretions
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: bronchial breath sounds on R>L
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   227 K/uL
   8.5 g/dL
   97 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.4 mEq/L
   22 mg/dL
   96 mEq/L
   149 mEq/L
   27.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
   WBC
   9.9
   9.7
   8.7
   9.3
   9.2
   Hct
   27.5
   27.9
   27.5
   28.7
   27.5
   Plt
   [**Telephone/Fax (3) 5974**]96
   227
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.4
   TCO2
   50
   45
   38
   36
   Glucose
   114
   98
   107
   100
   101
   97
   Other labs: PT / PTT / INR:13.0/52.6/1.1, CK / CKMB /
   Troponin-T:39//0.02, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:323
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   CXR: obscured R heart border and diapraghm, not significantly changed
   compared to prior
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypotension
 Unclear etiology, responsive to IV fluids and
   re-positioning. Did not receive any new medications and was not
   diuresed yesterday to trigger this. Also not febrile. Ddx includes
   sepsis, PE, cardiac ischemia
   - pan culture (urine, blood, sputum, stool)
   - if persistently hypotensive, would start Vanc/Zosyn and change out
   lines
   - will check valproate level as this can also cause hypotension
   - check LFTs to rule out abd pathology
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic.  Severe
   PNA. ? heart failure given positive fluid balance since admission and
   CXR showing fluid overload as well as effusion. Transudative effusion,
   but little improvement post- throacentesis. CT revealed large plug in
   left mainstem with LLL collapse, but bronchoscopy did not reveal
   obvious plugging. Now improved on BiPAP.
   - cont BiPAP, monitor VBG and MS, wean as tolerated
   - completed 12 day course cefepime on [**5-4**] and has remained afebrile
   - check ABG
   - keep even for I/O
   - continue chest PT and NG suctioning prn
   - no sedating medications
   - control heart rate, inc BB to metoprolol 25 TID
   - patient full code per discussion with PCP [**2191-4-26**]
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   - when BP lopressor to 25 TID
   - check digoxin level, continue ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - need to place J- tube per discussion with guardian
   # UTI- completed abx course
   - check repeat U/A today given mental status not at baseline
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-7**] 08:39 PM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2191-05-08 08:26:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Yesterday afternoon received 1 250cc bolus for BP in the low 80
   systolic.  VBG 7.34/62/151.  This morning hypotensive with MAPS in the
   40-50
s with decreased MS.  Receiving 500cc bolus.
 NON-INVASIVE VENTILATION - STOP [**2191-5-7**] 02:10 PM
 BRONCHOSCOPY - At [**2191-5-7**] 04:10 PM
 INVASIVE VENTILATION - START [**2191-5-7**] 04:15 PM
 INVASIVE VENTILATION - STOP [**2191-5-7**] 04:45 PM
 NON-INVASIVE VENTILATION - START [**2191-5-8**] 02:55 AM
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hep TiD
   Other medications:
   atrovent q6
   valproic acid 500 mg tid
   perpehenazine 6mg q day
   MVI
   lansoprazole
   colace
   dig .125 q day
   asa
   metoprolol 25 three times a day
   [**Doctor First Name **]
   Free water 150 q4hr
   Changes to medical and family history:
   Unchanged from admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-8**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 88 (81 - 109) bpm
   BP: 124/40(61) {87/30(50) - 143/98(98)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,488 mL
                                                                    661 mL
   PO:
             TF:
                                                                    698 mL
                                                                    396 mL
   IVF:
                                                                    490 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    245 mL
   Urine:
                                                                  1,660 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 6.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Neck: JVP flat
   Cardiovascular:[**Last Name (un) **] [**Last Name (un) 1920**] s1s2 no m/r/g
   Respiratory / Chest: Decreased left base, bronchial left LL mild
   bronchial right base and decreased
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Moves all 4 extermities
   PICC: Clean dry intact
   Labs / Radiology Chest Port- Bil effusions NG in place otherwise
   unchanged.
   8.5 g/dL
   227 K/uL
   97 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.4 mEq/L
   22 mg/dL
   96 mEq/L
   149 mEq/L
   27.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2191-5-4**]  04:45 AM
                             [**2191-5-5**]  03:37 AM
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
   WBC
   9.9
   9.7
   8.7
   9.3
   9.2
   Hct
   27.5
   27.9
   27.5
   28.7
   27.5
   Plt
   [**Telephone/Fax (3) 5974**]96
   227
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.4
   TCO2
   50
   45
   38
   36
   Glucose
   114
   98
   107
   100
   101
   97
   Other labs: PT / PTT / INR:13.0/52.6/1.1, CK / CKMB /
   Troponin-T:39//0.02, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:323
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Micro-Urine pending
   Assessment and Plan
   86 F schizophrenia, atrial fibrillation, HTN initial admission with LLL
   aspiration.  Now with large transudative left pleural effusion and
   concern for trapped lung.
   Hypotension
   -Cultures pending
   - will start Vanc/Cefepime
   -Bolus NS
   -Send Differential on WBC
 no left shift
   -Will start low dose Neo if no improvement with bolus
   - perpehenazine can cause severe hypotension but on low dose, unlikely
   cause.
   Aspiration
   -Tube feeds per NG for now
   -Will consider Peg
   -Repeat swallow deferred.
   Effusion
   Lt lung near white-out improved status post tap
   - shift to Lt - with element collapse/plugging
   -re: US drainage of effusion is transudative; do not suspect CHF. There
   is concern for trapped lung.
   -suctioning and chest PT
   -Will CT scan chest today and consider bronchoscopy.
   Hypercarbia
   -Acute on chronic, decompensation likely triggered by sedating meds
   -cefipime for presumed asp PNA completed
   -Will hold diuresis at this time looks euvolemic
   ATRIAL FIBRILLATION (AFIB)-Stable improved
   -Check dig level
   -Hold lopressor and dig
   -not on anticoagulation at baseline
   -cont ASA
   Somolence-Improving
    -Avoid sedating meds
   Metabolic alkalosis-Improved
   -Suspect portion of contraction
   -Responded nicely to diamox will hold further diamox.
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine may need to hold if workup for
   hypotension negative per PCP has decompensated off meds in past
   Remainder of plan per resident note.
   ICU Care
   Nutrition: Tube feeds at goal
   Nutren Pulmonary (Full) - [**2191-5-7**] 08:39 PM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:   SQ heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Patient is critically ill. Total time spent: 45 minutes
   Addendum: patient had bloody NG aspirate. Appreciate ENT evaluation.
   Clot was found in the right nare and suctioned out. Will keep NG and
   start Afrin 2 sprays [**Hospital1 **].
   ------ Protected Section ------
   Digoxin dose under medications should be.
   Dig 0.125 instead of Dig .125
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 5967**], MD
   on:[**2191-5-8**] 17:37 ------
   Attending Note: I saw and examined the patient, and was physically
   present with the ICU team for the key portions of the services
   provided. I agree with the note above, including the assessment and
   plan. I would emphasize and add the following points:  86 F
   schizophrenia, atrial fibrillation, HTN initial admission  with LLL
   aspiration.  Now with transudative left pleural effusion and concern
   for trapped lung. Appears stable, right nasal clot suctioned. Stable
   now. Imaging reviewed. There appears to be atelectasis with mediastinal
   shift to left yet bronch showed minimal secretions.  Rest of plan as
   detailed in Dr [**Last Name (STitle) 5967**]
s note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2191-5-8**] 18:07 ------

2191-05-09 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2191-5-8**] 02:18 PM
   - hypotensive in AM to 80s, responsive to IVF bolus
   - pan-cultured to r/o infectious etiology
   - Valproate and Digoxin levels OK, LFTs OK
   - [**Doctor First Name 1509**] spoke to guardian, note written in metavision
   - developed hemoptysis in PM, CXR w/ new fluffy infiltrates on left
   concerning for blood; ENT consulted who felt likely trauma from NGT,
   started on Afrin w/ good response; to d/c NGT if recurs
   - she pulled out NGT and was replaced in the left nares
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-8**] 10:00 PM
   Other medications:
   Valproate
   Perphenazine
   Prevacid
   [**Doctor First Name 877**]
   Colace
   Digoxin
   ASA
   Lopressor 25 TID
   Afrin nasal spray
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 80 (80 - 116) bpm
   BP: 96/44(56) {72/24(38) - 118/91(94)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 92% on 80% FM
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,104 mL
                                                                    904 mL
   PO:
             TF:
                                                                    784 mL
   IVF:
                                                                    740 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    195 mL
   Urine:
                                                                  1,000 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///33/
   Physical Examination
   Gen: less awake but responsive to stimuli, alert oriented, lying in bed
   with facemask, +cough with secretions
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: bronchial breath sounds on R>L
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   231 K/uL
   8.0 g/dL
   91 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   23 mg/dL
   105 mEq/L
   142 mEq/L
   25.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
   WBC
   8.7
   9.3
   9.2
   6.7
   8.8
   Hct
   27.5
   28.7
   27.5
   25.3
   25.1
   Plt
   271
   296
   227
   183
   231
   Cr
   0.6
   0.6
   0.6
   0.4
   0.5
   TCO2
   50
   45
   38
   36
   Glucose
   107
   100
   101
   97
   91
   Other labs: PT / PTT / INR:12.0/26.7/1.0, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   CXR: white out of left lung
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypotension
 Unclear etiology, responsive to IV fluids and
   re-positioning. Did not receive any new medications and was not
   diuresed yesterday to trigger this. Also not febrile. Ddx includes
   sepsis, PE, cardiac ischemia. [**Month (only) 8**] be related to receiving sedating meds
   - change timing of perphenazine
   - pan culture (urine, blood, sputum, stool)
   - if persistently hypotensive, would start Vanc/Zosyn and change out
   lines
   - check LFTs to rule out abd pathology
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic.  Today
   on CXR, white out of left lung which is most likely due to
   atelectasis.  Pneumonia course has been c/b transudative effusion, but
   little improvement post- throacentesis. CT revealed large plug in left
   mainstem with LLL collapse, but bronchoscopy did not reveal obvious
   plugging. Completed 12 day course cefepime on [**5-4**] and has remained
   afebrile
   - cont BiPAP, monitor VBG and MS, wean as tolerated
   - aggressive CT and deep suctioning
   - repeat U/S today and tap any effusions
   - keep even to negative for I/O if BP can tolerate
   - control heart rate, inc BB to metoprolol 25 TID
   - patient full code per discussion with PCP [**2191-5-7**]
   - check BNP
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   - when BP lopressor to 25 TID
   - check digoxin level, continue ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - J- tube per discussion with guardian ongoing, she will talk to PCP
   and requesting legal input
   # UTI- completed abx course
   - check repeat U/A today given mental status not at baseline
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   # Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2191-05-09 10:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Right nose bleed suspected per ENT from NG trauma
   Hypotension from yesterday resolved
   Valproic and dig levels wnl
   patient self d
cd NG replace in other nostril
   urine 20-25cc/hr
 PAN CULTURE - At [**2191-5-8**] 02:18 PM
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-8**] 10:00 PM
   Other medications:
   atrovent q6
   saline NS
   valproic acid 500 mg tid
   perpehenazine 6 mg qday (8am)
   MVI
   lansoprazole
   colace
   dig 0.125 q day
   asa 325 qday
   metoprolol 25 three times a day (6am)
   [**Doctor First Name **]
   Free water 150 q4hr
   Afrin 2 sprays [**Hospital1 **] x 3 days
   Changes to medical and family history:
   Unchanged from admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-9**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 87 (80 - 116) bpm
   BP: 95/43(55) {85/37(41) - 118/91(94)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 98%   80% FM
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,104 mL
                                                                  1,110 mL
   PO:
             TF:
                                                                    784 mL
   IVF:
                                                                    740 mL
                                                                    605 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    305 mL
   Urine:
                                                                  1,000 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                    805 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Neck: JVP flat
   Cardiovascular:[**Last Name (un) **] [**Last Name (un) 1920**] s1s2 no m/r/g
   Respiratory / Chest: Decreased left, bronchial left LL mild bronchial
   right base and decreased
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Moves all 4 extermities
   PICC: Clean dry intact
   Labs / Radiology Chest Port: Almost complete [**Doctor Last Name **] and LLL collapse
   8.0 g/dL
   231 K/uL
   91 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   23 mg/dL
   105 mEq/L
   142 mEq/L
   25.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-5-5**]  06:15 AM
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
   WBC
   8.7
   9.3
   9.2
   6.7
   8.8
   Hct
   27.5
   28.7
   27.5
   25.3
   25.1
   Plt
   271
   296
   227
   183
   231
   Cr
   0.6
   0.6
   0.6
   0.4
   0.5
   TCO2
   50
   45
   38
   36
   Glucose
   107
   100
   101
   97
   91
   Other labs: PT / PTT / INR:12.0/26.7/1.0, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   86 F schizophrenia, atrial fibrillation, HTN initial admission with LLL
   aspiration.  Now with large transudative left pleural effusion and
   concern for trapped lung.
   Effusion
   -Lt lung near white-out returned status post tap recurred in setting of
   fluid for hypotension.
   -re: US drainage of effusion is transudative; Will re-ultrasound if
   large pocket will consider IP placing Pig tail drain
   Hypotension
   -Cultures pending
   -Send Differential on WBC
 no left shift
   -perpehenazine can cause severe hypotension but on low dose, will
   change timing of dose tomorrow to see if correlates with low BP.
   Nose Bleed
   -Afrin
   -NG changed to left nares
   Aspiration
   -Tube feeds per NG for now
   -Will consider Peg, guardian would like to have family meeting to help
   issues regarding PEG.  Will schedule with PCP and guardian
   [**Name9 (PRE) 6000**] [**Name2 (NI) 1070**] deferred.
   Hypercarbia
   -Acute on chronic, decompensation likely triggered by sedating meds
   -cefipime for presumed asp PNA completed
   -Will hold diuresis at this time looks euvolemic
   ATRIAL FIBRILLATION (AFIB)-Stable improved
   -Check dig level
   -Hold lopressor and dig
   -not on anticoagulation at baseline
   -cont ASA
   Somolence-Improving
    -Avoid sedating meds
   Metabolic alkalosis-Improved
   -Suspect portion of contraction
   -Responded nicely to diamox will hold further diamox.
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine may need to hold if workup for
   hypotension negative per PCP has decompensated off meds in past.  Will
   change timing of perphenazine to see if it is associated with
   hypotension
   Remainder of plan per resident note.
   ICU Care
   Nutrition: restart tube feeds.
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: HEP
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   86 F schizophrenia, atrial fibrillation, HTN initial admission with
   aspiration pneumonia (probably mostly LLL), now with transudative left
   pleural effusion and concern for trapped lung, and hypoxic acute
   respiratory failure.
   Overnight events include hypotension that was fluid-responsive. Bloody
   aspirate from right nare seems to have stopped. Pt pulled out NG and
   new tube inserted down left nare.
   Exam is unchanged. BP 95/45, sat 92% on 80% HF mask. CXR today shows
   increased LUL opacification similar to pre-thoracentesis film from last
   week. There was bleeding from right nare yesterday but I doubt new
   opacity is related to aspirated blood. Bronch on 2 days ago did not
   show mucus or other lesions obstructing airway. She is 3 liters
   positive and there is therefore concern for recurrent pleural effusion
   with LUL atelectasis. Plan is to continue with chest PT, reevaluate for
   thoracentesis, and possibly insert pigtail for continued drainage of
   effusion.
   Other issues that need to be addressed include NG tube feeding. She
   would benefit from a PEG for longterm nutrition as she is at high risk
   of aspiration. The patient
s legal guardian would like to have more
   information about this before deciding. A meeting with the patient
   PCP, [**Name10 (NameIs) **] [**Last Name (STitle) 5888**], is being planned.  Goals of care will also need to be
   discussed at this meeting.
   In terms of mental status, she is somnolent but easily arousable. We
   will avoid sedating medications, delay dose of perphenazine (may be
   causing hypotension), and consider asking for psychiatry
s input.
   Rest of plan as detailed in Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 36 minutes. Full Code.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2191-5-9**] 04:27 PM ------

2191-05-10 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-5-10**] 03:30 AM
   - growing GPC's from PICC, started on Vanc
   - large effusion around left lung - > consulted IP for pigtail
   - consulted gen surger for PEG
   - discussed G-tube and pig tail with guardian who agreed to both
   - started on lasix drip
   - pulled out NG tube several times
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-9**] 08:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-9**] 10:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 109 (78 - 109) bpm
   BP: 109/54(66) {90/25(41) - 123/68(167)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,434 mL
                                                                    127 mL
   PO:
             TF:
                                                                    324 mL
   IVF:
                                                                    930 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                  2,160 mL
   Urine:
                                                                  1,815 mL
                                                                  2,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                 -2,033 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///39/
   Physical Examination
   Gen: less awake but responsive to stimuli, alert oriented, lying in bed
   with facemask, +cough with secretions
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: bronchial breath sounds on R>L
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   240 K/uL
   8.2 g/dL
   95 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.7 mEq/L
   17 mg/dL
   95 mEq/L
   138 mEq/L
   25.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
   WBC
   8.7
   9.3
   9.2
   6.7
   8.8
   8.7
   Hct
   27.5
   28.7
   27.5
   25.3
   25.1
   25.8
   Plt
   271
   296
   227
   183
   231
   240
   Cr
   0.6
   0.6
   0.6
   0.4
   0.5
   0.5
   TCO2
   45
   38
   36
   Glucose
   107
   100
   101
   97
   91
   95
   Other labs: PT / PTT / INR:14.0/49.6/1.2, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: opacification of left lung unchanged, with unchaged
   tracheal deviation
   Microbiology: 1/4 bottles GPC's, + through PICC line on [**2190-5-8**]
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   Paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypotension
 Unclear etiology, responsive to IV fluids and
   re-positioning. Did not receive any new medications and was not
   diuresed yesterday to trigger this. Also not febrile. Ddx includes
   sepsis, PE, cardiac ischemia. [**Month (only) 8**] be related to receiving sedating meds
   - change timing of perphenazine
   - pan culture (urine, blood, sputum, stool)
   - if persistently hypotensive, would start Vanc/Zosyn and change out
   lines
   - check LFTs to rule out abd pathology
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic.  Today
   on CXR, white out of left lung which is most likely due to effusion as
   U/S shows reccurent large effusion.  Pneumonia course has been c/b
   transudative effusion, but little improvement post- throacentesis. CT
   revealed large plug in left mainstem with LLL collapse, but
   bronchoscopy did not reveal obvious plugging. BNP still up 4,000.
   Completed 12 day course cefepime on [**5-4**] and has remained afebrile
   - consult IP for pigtail
   - cont BiPAP, monitor VBG and MS, wean as tolerated
   - aggressive CPT and deep suctioning
   - control heart rate, inc BB to metoprolol 25 TID
   - patient full code per discussion with PCP [**2191-5-7**]
   - give diamox  and KCLfor increasing bicarb, recheck chem7 in afternoon
   - depending on chem 7, start lasix gtt PRN to keep neg 500cc
one liter
   negative
   #GPC
s from PICC on [**5-8**]:
   - surveillance cultures
   - cont vanc
   - may need to remove PICC
   - await speciation
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   - when BP lopressor to 25 TID
   - check digoxin level, continue ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - guardian agreed to PEG
   - consulted Gen surgery, will likely need to be intubated
   # UTI- completed abx course
   - check repeat U/A today given mental status not at baseline
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2191-05-10 10:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   Grew
 GPC from Picc line gram stain Grm + clusters
   lasix drip overnight
   large effusion returned on left
   IP consulted for Pig tail
   Surgery consulted for J tube
   24 Hour Events:
 BLOOD CULTURED - At [**2191-5-10**] 03:30 AM
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-9**] 08:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-9**] 10:24 PM
   Other medications:
   atrovent q6
   saline NS
   valproic acid 500 mg tid
   perpehenazine 6 mg qday (1pm today)
   MVI
   lansoprazole
   docusate
   dig 0.125 q day
   asa 325 qday
   metoprolol 25 three times a day
   [**Doctor First Name **]
   Free water 150 q4hr
   Afrin 2 sprays [**Hospital1 **] x 3 days
   Changes to medical and family history:
   no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-10**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 98 (78 - 109) bpm
   BP: 123/45(65) {90/25(49) - 137/68(167)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 97%  60% HF
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,434 mL
                                                                    158 mL
   PO:
             TF:
                                                                    324 mL
   IVF:
                                                                    930 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                  2,415 mL
   Urine:
                                                                  1,815 mL
                                                                  2,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                 -2,257 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Neck: JVP flat
   Cardiovascular:[**Last Name (un) **] [**Last Name (un) 1920**] s1s2 no m/r/g
   Respiratory / Chest: Decreased left, bronchial left  mild bronchial
   right base and decreased but less than left
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Moves all 4 extremities
   PICC: Clean dry intact
   Labs / Radiology:  Chest large left effusion and shift
   8.2 g/dL
   240 K/uL
   95 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.7 mEq/L
   17 mg/dL
   95 mEq/L
   138 mEq/L
   25.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2191-5-5**]  02:24 PM
                             [**2191-5-5**]  05:49 PM
                             [**2191-5-6**]  03:15 AM
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
   WBC
   8.7
   9.3
   9.2
   6.7
   8.8
   8.7
   Hct
   27.5
   28.7
   27.5
   25.3
   25.1
   25.8
   Plt
   271
   296
   227
   183
   231
   240
   Cr
   0.6
   0.6
   0.6
   0.4
   0.5
   0.5
   TCO2
   45
   38
   36
   Glucose
   107
   100
   101
   97
   91
   95
   Other labs: PT / PTT / INR:14.0/49.6/1.2, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   BNP 4000
   Assessment and Plan
   86 F schizophrenia, atrial fibrillation, HTN initial admission with LLL
   aspiration.  Now with large transudative left pleural effusion and
   concern for trapped lung from aspiration/PNA.
   Effusion/Fluid status
   -Lt lung near white-out returned status post tap recurred in setting of
   fluid for hypotension.
   - IP to place Pig tail drain while intubated and re-bronch
   -Will also use + Pressure after effusion drained to rexpand lung
   -Goal negtive
   Hypotension-resolved
   -Cultures picc + f/u speciation
   -Continue vanc for now
   -Send Differential on WBC
 no left shift
   -perpehenazine can cause severe hypotension but on low dose, will
   change timing of dose tomorrow to see if correlates with low BP.
   Nose Bleed
   -Afrin x 3 days
   -NG changed to left nares
   Aspiration
   -Tube feeds per NG for now
   - Goal to place J Peg to be placed by surgery.
   -Repeat swallow deferred.
   ATRIAL FIBRILLATION (AFIB)-Stable improved
   -Hold lopressor and dig
   -not on anticoagulation at baseline
   -cont ASA
   Somolence-Improving
    -Avoid sedating meds
   Metabolic alkalosis-Improved
   -Suspect portion of contraction
   -Will give KCL
   -One does of diamox
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine may need to hold if workup for
   hypotension negative per PCP has decompensated off meds in past.  Will
   change timing of perphenazine to see if it is associated with
   hypotension
   -If hypotension with perphenazine will call Psyc consult for
   alternative regimen.
   Remainder of plan per resident note.
   ICU Care- Will discuss goals of care with PCP and guardian
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM (f/u Cultures.)
   Prophylaxis:
   DVT: heprin
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   86 F schizophrenia, atrial fibrillation, HTN initial admission with
   aspiration pneumonia (probably mostly LLL), now with transudative left
   pleural effusion and concern for trapped lung, and hypoxic acute
   respiratory failure.
   Notable events include: CNS grew from PICC blood culture. We discussed
   case with Dr [**Last Name (STitle) 5888**] and appreciate very much her input. Patient spoke to
   Dr [**Last Name (STitle) 5888**] and would be in favor of having J-tube placed. Lasix held this
   AM due to concern of hypotension.
   Currently stable vitals. BNP ~4000, HCO3 39, WBC 8.7. BP 104/49, HR 75,
   sat 91% on 60% HF mask. CXR today shows opacification of left lung with
   mediastinal shift to the left c/w atelectasis similar to
   pre-thoracentesis film from last week. Bronch 3 days ago did not show
   mucus or other lesions obstructing airway. She is 600 ml positive for
   24 hrs with known transudative effusion - concern is for recurrent
   pleural effusion with LUL atelectasis.
   Imp
 hypoxic respiratory failure with ongoing high O2 requirements,
   likely due to left lung collapse, in part related to pleural effusion.
   Afib rate controlled. Significant metabolic alkalosis.
   Plan is for pigtail drainage of pleural fluid, J tube and likely repeat
   bronchoscopy before extubating. Will continue perphanazine and depakote
   for schizophrenia.
   Rest of plan as detailed in Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 35 minutes. Full Code.
   Addendum: pleural drainage performed with insertion of pigtail
   catheter. Procedure was uneventful. I was present during the entire
   procedure. At least 1 liter of fluid has already drained. Follow up CXR
   shows remarkable expansion of left lung.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2191-5-10**] 18:28 ------

2191-05-11 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2191-5-10**] 04:00 PM
   - PICC growing coag neg staph
   - IP did bedside pigtail with immediate drainage of >1L, f/u CXR with
   marked improvement. ABG at that time 7.45/58/165
   - surgery to take to OR for G-J tube (not able to do J tube because it
   is an open procedure)
   - perphenazine given at 1PM without significant effect on BP
   - received diamox X 2
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-10**] 01:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-10**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 67 (67 - 103) bpm
   BP: 121/48(63) {91/37(50) - 137/84(93)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,222 mL
                                                                    195 mL
   PO:
             TF:
   IVF:
                                                                    572 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,635 mL
                                                                  1,455 mL
   Urine:
                                                                  3,545 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,413 mL
                                                                 -1,260 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.45/58/165/34/14
   PaO2 / FiO2: 412
   Physical Examination
   Gen: less awake but responsive to stimuli, alert oriented, lying in bed
   with facemask, +cough with secretions
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: bronchial breath sounds on R>L
   Chest: right pigtail in place
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   234 K/uL
   8.7 g/dL
   104 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   13 mg/dL
   99 mEq/L
   139 mEq/L
   28.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
                             [**2191-5-10**]  04:14 PM
                             [**2191-5-10**]  05:35 PM
                             [**2191-5-11**]  03:30 AM
   WBC
   9.3
   9.2
   6.7
   8.8
   8.7
   7.1
   Hct
   28.7
   27.5
   25.3
   25.1
   25.8
   28.0
   Plt
   296
   227
   183
   [**Telephone/Fax (3) 6048**]
   Cr
   0.6
   0.4
   0.5
   0.5
   0.6
   0.6
   TCO2
   38
   36
   42
   Glucose
   101
   97
   91
   95
   136
   104
   Other labs: PT / PTT / INR:14.0/49.6/1.2, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: improved, left lung fields are less opaque and heart
   borders and diaphragm can be visualized
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypotension
 Unclear etiology, responsive to IV fluids and
   re-positioning. Did not receive any new medications and was not
   diuresed yesterday to trigger this. Also not febrile. Ddx includes
   sepsis, PE, cardiac ischemia. [**Month (only) 8**] be related to receiving sedating meds
   - change timing of perphenazine
   - pan culture (urine, blood, sputum, stool)
   - if persistently hypotensive, would start Vanc/Zosyn and change out
   lines
   - check LFTs to rule out abd pathology
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic.  Today
   on CXR, white out of left lung which is most likely due to effusion as
   U/S shows reccurent large effusion.  Pneumonia course has been c/b
   transudative effusion, but little improvement post- throacentesis. CT
   revealed large plug in left mainstem with LLL collapse, but
   bronchoscopy did not reveal obvious plugging. BNP still up 4,000.
   Pigtail placed on [**5-10**] with drainage of a large amount of lfuid and
   substantial improvement on CXR. Completed 12 day course cefepime on
   [**5-4**] and has remained afebrile
   - cont BiPAP, monitor VBG and MS, wean as tolerated
   - aggressive CPT and deep suctioning
   - control heart rate, inc BB to metoprolol 25 TID
   - patient full code per discussion with PCP [**2191-5-7**]
   - give diamox  and KCLfor increasing bicarb, recheck chem7 in afternoon
   - start lasix gtt PRN to keep neg 500cc
one liter negative
   #GPC
s from PICC on [**5-8**]:
   - surveillance cultures
   - cont vanc
   - may need to remove PICC
   - await speciation
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   - when BP lopressor to 25 TID
   - check digoxin level, continue ASA 325
   -not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - guardian agreed to PEG
   - consulted Gen surgery, will likely need to be intubated
   # UTI- completed abx course
   - check repeat U/A today given mental status not at baseline
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-05-11 08:25:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   24 Hour Events:
   PICC-coag staph.
   Surgery planning J tube today.
   received Diamox x 2 yesterday
 CHEST TUBE PLACED - At [**2191-5-10**] 04:00 PM-Lung back up and FiO2
   decreased total 1500 cc output.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-11**] 08:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-10**] 10:13 PM
   Other medications:
   atrovent q6
   saline NS
   valproic acid 500 mg tid
   perpehenazine 6 mg qday (1pm today)
   MVI
   lansoprazole
   docusate
   dig 0.125 q day
   asa 325 qday
   metoprolol 25 three times a day
   [**Doctor First Name **]
   Free water 150 q4hr (Held)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Tired otherwise unremarkable
   Flowsheet Data as of  [**2191-5-11**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 73 (67 - 103) bpm
   BP: 101/45(57) {91/37(50) - 123/84(93)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 96%  Down to 50% Fi)2
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 65.4 kg (admission): 82.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,222 mL
                                                                    454 mL
   PO:
             TF:
   IVF:
                                                                    572 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  4,635 mL
                                                                  1,515 mL
   Urine:
                                                                  3,545 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,413 mL
                                                                 -1,061 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.45/58/165/34/14
   PaO2 / FiO2: 412
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Neck: JVP flat
   Cardiovascular:[**Last Name (un) **] [**Last Name (un) 1920**] s1s2 no m/r/g
   Respiratory / Chest: Improved vesiclular BS bilaterally with bronchial
   at left base
   Abdominal: Soft, Non-tender, Bowel sounds present ventral hernia
   Skin:  Warm
   Ext: No c/c/e
   Neurologic: Sleepy, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Moves all 4 extremities
   PICC: Clean dry intact
   Labs / Radiology: Pig tail in place, less shift, improved aeration of
   left lung field still loss of left HD and right effusion.  PICC in
   place.  Small pneumothorax on post pigtail film.
   8.7 g/dL
   234 K/uL
   104 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   13 mg/dL
   99 mEq/L
   139 mEq/L
   28.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2191-5-6**]  10:28 AM
                             [**2191-5-7**]  03:52 AM
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
                             [**2191-5-10**]  04:14 PM
                             [**2191-5-10**]  05:35 PM
                             [**2191-5-11**]  03:30 AM
   WBC
   9.3
   9.2
   6.7
   8.8
   8.7
   7.1
   Hct
   28.7
   27.5
   25.3
   25.1
   25.8
   28.0
   Plt
   296
   227
   183
   [**Telephone/Fax (3) 6048**]
   Cr
   0.6
   0.4
   0.5
   0.5
   0.6
   0.6
   TCO2
   38
   36
   42
   Glucose
   101
   97
   91
   95
   136
   104
   Other labs: PT / PTT / INR:14.0/49.6/1.2, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   86 F schizophrenia, atrial fibrillation, HTN initial admission with LLL
   aspiration.  Now with large transudative left pleural effusion and
   concern for trapped lung from aspiration/PNA improved s/p pig tail.
   Effusion/Fluid status
   -Lt lung near white-out returned status post tap recurred in setting of
   fluid for hypotension.
   - Pig tail drain with sig improvement in lung aeration down to 2L
   -Goal negtive
   Hypotension-resolved
   -Cultures picc + Coag negative staph
   -Will d
c vanc
   -Send Differential on WBC
 no left shift
   -perpehenazine can cause severe hypotension but on low dose she did not
   drop her pressure yesterday afternoon
   Nose Bleed
   -Afrin x 3 days completed no evidence of bleeding
   -NG changed to left nares
   Aspiration
   -Tube feeds per NG for now
   -Goal to place J Peg to be placed by surgery will be open so needs to
   be scheduled
   ATRIAL FIBRILLATION (AFIB)-Stable improved
   -Hold lopressor and dig
   -Will check Dig level 1 week after last.
   -not on anticoagulation at baseline
   -cont ASA
   Somolence-Improving
    -Avoid sedating meds
   Metabolic alkalosis-Improved
   -Suspect portion of contraction
   -Will give KCL
   -One does of diamox again today
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine may need to hold if workup for
   hypotension negative per PCP has decompensated off meds in past.  Will
   change timing of perphenazine to see if it is associated with
   hypotension
   -If hypotension with perphenazine will call Psyc consult for
   alternative regimen.  Was not hypotensive yesterday.
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Restart tube feeds
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:   SQ heprin/boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Will observe today consider dispo to floor tomorrow
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   86 F schizophrenia, atrial fibrillation, HTN initial admission with
   aspiration pneumonia (probably mostly LLL), now with transudative left
   pleural effusion causing left lung atelectasis s/p catheter drainage,
   and acute hypoxic respiratory failure.
   Overnight events noted. Pigtail catheter inserted with drainage of 1.7
   L total so far. CNS x 1 bottle grew from PICC blood culture. We
   discussed case with Dr [**Last Name (STitle) 5888**] and appreciate very much her input. Patient
   spoke to Dr [**Last Name (STitle) 5888**] and would be in favor of having J-tube placed.
   Currently stable vitals, weight 67 kg today (admission weight 82 kg).
   Responsive when stimulated, responds to commands,  dry MM, moves 4
   extrem, lungs clear ant/lat, S1S2 reg, abd soft, NT, ND, Ext no edema.
   BNP ~4000 (down from [**Numeric Identifier 2380**] on [**4-22**]. HCO3 34 (got dose of diamox), WBC
   7.1. MAP of 55, HR 85-90, sat 98% on 2L nasal canula. CXR today shows
   reexpanded left lung, no new infiltrates or effusions. Catheter in
   place. I can
t appreciate any pneumothorax today.
   IMP
   - hypoxic respiratory failure with ongoing but improving O2
   requirements. Significant improvement after effusion drained and left
   lung reexpanded.
   - Persistent hypotension appears to be volume related. Looking back at
   the ins/outs from the floor prior to MICU readmission, she was positive
   by several liters and now negative 9 L since the readmit to MICU on
   [**5-1**]. Weight is curiously at 67 kg today which would suggest she is
   volumed depleted explaining her hypotension, significant metabolic
   alkalosis and dry mucus membranes on exam.
   - Afib rate controlled.
   Plan
   Hydrate gently today (will give at least another liter today), continue
   pigtail drainage of left effusion, J tube probably tomorrow, decrease
   lopressor to 12.5 mg TID. Will continue perphanazine and depakote for
   schizophrenia. CT head given new dysphagia and lethargic mental status.
   Rest of plan as detailed in Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 45 minutes. Full Code.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2191-5-11**] 15:42 ------

2191-05-12 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ordered head CT for question of embolic CVA: No intracranial
   hemorrhage or mass effect. New mastoid air cell opacification.
   - variable BP's, received serial boluses but BP also inc to sitting up
   and stimulation, not orthostatic however looking at weight she is down
   to 65kg from admission weight of 82kg, LOS since readmission to ICU is
   negative 10 liters.  Given this she was given additional 1l IVF.
   - metoprolol decreased to 12.5mg TID
   - added on cortisol: 17.2
   - per surgery, would do open G-tube given surgical hx and ventral
   hernia, awaiting guardian decision
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-11**] 08:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-12**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 122 (68 - 122) bpm
   BP: 113/56(71) {72/35(44) - 122/66(94)} mmHg
   RR: 20 (18 - 35) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 65.4 kg (admission): 82.2 kg
   Height: 68 Inch
             Total In:
                                                                  3,179 mL
                                                                    493 mL
   PO:
             TF:
                                                                    646 mL
                                                                    330 mL
   IVF:
                                                                  2,292 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    605 mL
   Urine:
                                                                  1,660 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///29/
   Physical Examination
   Gen: less awake but responsive to stimuli, alert oriented, lying in bed
   with facemask, +cough with secretions
   CV: irregularly irregular, no appreciable murmur, JVD
   Lungs: improved compared to yesterday
   Chest: right pigtail in place
   Abd: soft, ventral hernia, non tender
   Ext: no edema
   Skin:  mottled LE particularly on feet
   Neurologic:  moves all ext independently, strength 3/5, CNII-XII intact
   with right  eye ptosis
   Labs / Radiology
   CT head: no intracranial bleed, new mastoid cell opacification
   [**Pager number **] K/uL
   8.8 g/dL
   104 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   17 mg/dL
   105 mEq/L
   141 mEq/L
   28.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
                             [**2191-5-10**]  04:14 PM
                             [**2191-5-10**]  05:35 PM
                             [**2191-5-11**]  03:30 AM
                             [**2191-5-11**]  05:29 PM
                             [**2191-5-12**]  03:17 AM
   WBC
   9.2
   6.7
   8.8
   8.7
   7.1
   7.9
   Hct
   27.5
   25.3
   25.1
   25.8
   28.0
   28.3
   Plt
   227
   183
   231
   [**Telephone/Fax (3) 6072**]
   Cr
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   TCO2
   36
   42
   Glucose
   97
   91
   95
   136
   104
   126
   104
   Other labs: PT / PTT / INR:15.4/37.8/1.4, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   CXR: small PTX slightly enlarged
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypotension
 Unclear etiology, responsive to IV fluids and
   re-positioning. Did not receive any new medications and was not
   diuresed yesterday to trigger this. Also not febrile. Ddx includes
   sepsis, PE, cardiac ischemia. [**Month (only) 8**] be related to receiving sedating meds
   - change timing of perphenazine
   - pan culture (urine, blood, sputum, stool) unrevealing
   - goal I/O even today
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic but
   substantially improved down to several liters NC from face mask.  CXR
   today is improved with re-expansion of left upper lobe.  BNP still up
   4,000, likely still volume up.  Pigtail placed on [**5-10**] with drainage of
   a large amount of fluid and substantial improvement on CXR. Completed
   12 day course cefepime on [**5-4**] and has remained afebrile. She had
   recurrent LL effusion with was tapped X 1 followed by rapid
   accumulation. Now s/p IP placed pigtail to drain transudate likely from
   a trapped lung.
   - repeat CT scan without contrast today while chest tube on suction to
   evaluate for trapped lung as she may benefit from VATS/decortication
   for that lung
   - aggressive CPT and deep suctioning
   - patient full code per discussion with PCP [**2191-5-7**]
   -  recheck chem7 in afternoon
   # Coag neg from PICC on [**5-8**]:
 bottles, suriveillance cx neg
   - stop vanc
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   - lopressor [**Month (only) 453**] back to  12.5mg TID given hypotension
   - check digoxin level
   - continue ASA 325
   - not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
   # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - guardian agreed to PEG, but still awaiting on final legal counsel
   - consulted Gen surgery, will need to be intubated
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2191-05-12 07:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   24 Hour Events:
   CT head negative
   metoprolol decreased
   more alert than yesterday but less than last week
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-11**] 08:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-12**] 12:00 AM
   Other medications:
   atrovent q6
   saline NS
   valproic acid 500 mg tid
   perpehenazine 6 mg qday (1pm today)
   MVI
   lansoprazole
   docusate
   dig 0.125 q day
   asa 325 qday
   metoprolol 12.5 three times a day
   [**Doctor First Name **]
   Free water 150 q4hr (Held)
   Changes to medical and family history:
   See admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-12**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 111 (68 - 122) bpm
   BP: 102/48(62) {72/35(44) - 122/66(94)} mmHg
   RR: 35 (18 - 35) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 65.4 kg (admission): 82.2 kg
   Height: 68 Inch
             Total In:
                                                                  3,179 mL
                                                                    707 mL
   PO:
             TF:
                                                                    646 mL
                                                                    390 mL
   IVF:
                                                                  2,292 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    605 mL
   Urine:
                                                                  1,660 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% 2L
   ABG:
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Neck: JVP flat
   Cardiovascular:[**Last Name (un) **] [**Last Name (un) 1920**] s1s2 no m/r/g
   Respiratory / Chest:  vesiclular BS bilaterally with bronchial at left
   base and decreased left base
   Abdominal: Soft, Non-tender, Bowel sounds present ventral hernia
   Skin:  Warm
   Ext: No c/c/e
   Neurologic: Sleepy, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Moves all 4 extremities
   PICC: Clean dry intact
   Labs / Radiology: Head CT negative, new mastoid air fluid  levels.
   Chest x-ray-Small Pneumothorax and left base consolidation, right
   effusion and patchy RUL infiltrate.
   8.8 g/dL
   237 K/uL
   104 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   17 mg/dL
   105 mEq/L
   141 mEq/L
   28.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2191-5-7**]  05:58 AM
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
                             [**2191-5-10**]  04:14 PM
                             [**2191-5-10**]  05:35 PM
                             [**2191-5-11**]  03:30 AM
                             [**2191-5-11**]  05:29 PM
                             [**2191-5-12**]  03:17 AM
   WBC
   9.2
   6.7
   8.8
   8.7
   7.1
   7.9
   Hct
   27.5
   25.3
   25.1
   25.8
   28.0
   28.3
   Plt
   227
   183
   231
   [**Telephone/Fax (3) 6072**]
   Cr
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   TCO2
   36
   42
   Glucose
   97
   91
   95
   136
   104
   126
   104
   Other labs: PT / PTT / INR:15.4/37.8/1.4, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   86 F schizophrenia, atrial fibrillation, HTN initial admission with LLL
   aspiration.  Now with large transudative left pleural effusion and
   concern for trapped lung from aspiration/PNA improved oxygenation s/p
   pig tail but residual pneumothorax which is concerning for trapped lung
   Effusion pig tail
   - Will repeat CT scan and consult thoracics if concern for trapped
   lung.
   Hypotension-resolved
   -Send Differential on WBC
 no left shift
   -perpehenazine can cause severe hypotension but on low dose she did not
   drop her pressure yesterday afternoon
   Nose Bleed
   -Afrin x 3 days completed no evidence of bleeding
   -NG changed to left nares
   Aspiration
   -Tube feeds per NG for now
   -Goal to place J Peg to be placed by surgery will be open so needs to
   be scheduled
   ATRIAL FIBRILLATION (AFIB)-Stable improved
   -Hold lopressor and dig
   -Will check Dig level 1 week after last.
   -not on anticoagulation at baseline
   -cont ASA
   Somolence-Improving
    -Avoid sedating meds
   Metabolic alkalosis-Improved
   -Suspect portion of contraction  stable
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine may need to hold if workup for
   hypotension negative per PCP has decompensated off meds in past.  Will
   change timing of perphenazine to see if it is associated with
   hypotension
   -If hypotension with perphenazine will call Psyc consult for
   alternative regimen.  Was not hypotensive yesterday.
   Remainder of plan per resident note.
   ICU Care
   Nutrition: Tube feeds general surgery pending J tube.
   Nutren Pulmonary (Full) - [**2191-5-12**] 06:42 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:  SQ hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU pending CT and J tube
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   86 F schizophrenia, atrial fibrillation, HTN initial admission with
   aspiration pneumonia (probably mostly LLL), now with transudative left
   pleural effusion causing left lung atelectasis s/p catheter drainage,
   and acute hypoxic respiratory failure.
   Events noted: lopressor decreased, CT head without evidence of stroke
   or acute hemorrhage. Pigtail catheter continues to drain ~500 cc fluid,
   on suction. I/O positive ~700 ml. CT chest done today which was
   reviewed
 to be reviewed with radiologist.
   Currently stable vitals, weight 67.4 kg today (admission weight 82 kg).
   Responsive when stimulated, responds to commands,  dry MM, moves 4
   extrem, lungs clear ant/lat, S1S2 reg, abd soft, NT, ND, Ext no edema.
   HCO3 29, WBC 7.9. MAPs improved, HR 81-101, sat 97% on 2L nasal canula.
   CXR today shows re-expanded left lung with slightly larger apical
   pneumothorax, right pleural effusion.
   IMP
   - hypoxic respiratory failure with improving O2 requirements.
   Significant improvement after effusion drained and left lung
   reexpanded.
   - Pneumothorax. Will need to review CT chest with radiologist. It
s not
   clear if air is truly a pneumothorax or as a result of trapped lung.
   Will put CT on water seal and repeat CXR today.
   - Hypotension improved with lowering lopressor and giving IVF.
   - Afib rate controlled.
   Plan
   Continue with gentle hydration if hypotensive, continue pigtail
   drainage of left effusion, J tube likely to be put in on Monday. Will
   continue perphanazine and depakote for schizophrenia. Rest of plan as
   detailed in Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 35 minutes. Full Code.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2191-5-12**] 17:21 ------

2191-05-13 07:32:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   [**5-12**]
   - Chest CT with small PTX-> will try on waterseal tomorrow and repeat
   CXR
   - spoke to lawyer and guardian, will go ahead with [**Name (NI) 3014**]
   - more alert today with [**Month (only) 453**] O2 requirement
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-11**] 08:02 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 106 (87 - 108) bpm
   BP: 121/55(71) {99/42(57) - 131/89(95)} mmHg
   RR: 29 (17 - 37) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 82.2 kg
   Height: 68 Inch
             Total In:
                                                                  2,682 mL
                                                                    702 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    567 mL
   IVF:
                                                                  1,191 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    315 mL
   Urine:
                                                                    885 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,417 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   GEN: pleasant, alert, oriented to person, place
   HEENT: MMM
   Cor: RRR, no murmurs
   Puom: decreased BS on left, coarse on R
   Abd: soft, NT/ND, hernia
   Ext: no edema
   Labs / Radiology
   240 K/uL
   8.2 g/dL
   95 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.2 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   25.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
                             [**2191-5-10**]  04:14 PM
                             [**2191-5-10**]  05:35 PM
                             [**2191-5-11**]  03:30 AM
                             [**2191-5-11**]  05:29 PM
                             [**2191-5-12**]  03:17 AM
                             [**2191-5-13**]  03:48 AM
   WBC
   9.2
   6.7
   8.8
   8.7
   7.1
   7.9
   7.3
   Hct
   27.5
   25.3
   25.1
   25.8
   28.0
   28.3
   25.8
   Plt
   227
   183
   231
   [**Telephone/Fax (3) 6072**]
   240
   Cr
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   42
   Glucose
   97
   91
   95
   136
   104
   126
   104
   95
   Other labs: PT / PTT / INR:12.8/36.0/1.1, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: Chest CT: PFI: Compared to [**2191-5-7**], there is improved
   aeration of the left lung
   especially left upper lobe but also the left base. There is still
   present
   small left pneumothorax. The right pleural effusion is unchanged.
   Widespread
   centrilobular nodules are consistent with infection. The right upper
   lobe
   consolidation did not significantly change in the interim.
   Microbiology: Blood cx: [**5-10**]: NGTD
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 BALANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   hypercarbic
 ATRIAL FIBRILLATION (AFIB)
   paroxysmal
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN s/p aspiration [**Hospital 967**] transferred to MICU with acute
   hypercarbic respiratory failure.
   # Hypotension
 Unclear etiology, responsive to IV fluids and
   re-positioning. Did not receive any new medications and was not
   diuresed yesterday to trigger this. Also not febrile. Ddx includes
   sepsis, PE, cardiac ischemia. [**Month (only) 8**] be related to receiving sedating meds
   - change timing of perphenazine
   - pan culture (urine, blood, sputum, stool) unrevealing
   - goal I/O even today
   # Hypercarbic/ Hypoxic respiratory failure-  Pt still hypoxic but
   substantially improved down to several liters NC from face mask.  CXR
   today is improved with re-expansion of left upper lobe.  BNP still up
   4,000, likely still volume up.  Pigtail placed on [**5-10**] with drainage of
   a large amount of fluid and substantial improvement on CXR. Completed
   12 day course cefepime on [**5-4**] and has remained afebrile. She had
   recurrent LL effusion with was tapped X 1 followed by rapid
   accumulation. Now s/p IP placed pigtail to drain transudate likely from
   a trapped lung.
   - repeat CT scan shows small PTX, pt placed on water seal
   - will clamp chest tube for 4 hrs and repeat CXR to eval size of PTX
   - once drainage decreased to 100 cc/24 hrs, then can consider d/c tube
   - further discussion re: need for decortication
   - repeat film this morning
   - aggressive CPT and deep suctioning
   - patient full code per discussion with PCP [**2191-5-7**]
   #Paroxysmal Atrial fibrillation -  Improved, HR now 90
s. Often
   exacerbated by mucous plugging.
   - lopressor [**Month (only) 453**] back to  12.5mg TID given hypotension
   - continue ASA 325
   - not on anticoagulation at baseline
   #Schizophrenia - stable
   -continue depakote and perphenazine
    # [**Name (NI) 5860**] pt failed video swallow and is currently NPO. Pt will be
   reevaluated later this week. In the ICU question was raised whether
   aspiration is [**2-14**] stroke but no new focal neurological signs. Likely
   [**2-14**] weakness and infection, and expect to improve.
   - failed video swallow X 1
   - strict NPO
   - guardian agreed to PEG
   - consulted Gen surgery, will need to be intubated
   # Anemia- currently stable, may have been volume shifts. stable
   # Hypertension - lopressor PRN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-13**] 03:11 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out to floor

2191-05-13 07:51:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   Chief Complaint: respiratory failure
   HPI: 86 F schizophrenia, atrial fibrillation, HTN initial admission
   with LLL aspiration.  Now with large transudative left pleural effusion
   and concern for trapped lung from aspiration/PNA improved oxygenation
   s/p pig tail but residual pneumothorax which is concerning for trapped
   lung
   24 Hour Events:
   Chest CT-improved left lung small Pneumothorax, RUL consolidation
   unchanged and mod right effusion.
   J tube-pending
   Mental status improved.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-11**] 08:02 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-12**] 10:00 PM
   Other medications:
   -atrovent q6
   saline NS
   -valproic acid 500 mg tid
   -perpehenazine 6 mg qday (1pm today)
   -MVI
   -lansoprazole
   -docusate
   -dig 0.125 q day
   -asa 325 qday
   -metoprolol 12.5 three times a day
   -[**Doctor First Name **]
   -lidocain patch qday
   Changes to medical and family history:
   See admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:No change
   Flowsheet Data as of  [**2191-5-13**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 106 (87 - 108) bpm
   BP: 121/55(71) {99/42(57) - 131/89(95)} mmHg
   RR: 29 (17 - 37) insp/min
   SpO2: 94%  2L
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 82.2 kg
   Height: 68 Inch
             Chest tube 75cc 12hrs.
   Total In:
                                                                  2,682 mL
                                                                    707 mL
   PO:
                                   TF:
                                                                  1,211 mL
                                                                    568 mL
   IVF:
                                                                  1,191 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    315 mL
   Urine:
                                                                    885 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,417 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Neck: JVP flat
   Cardiovascular:[**Last Name (un) **] [**Last Name (un) 1920**] s1s2 no m/r/g
   Respiratory / Chest:  vesiclular BS bilaterally with bronchial at left
   base and decreased left base and right base
   Abdominal: Soft, Non-tender, Bowel sounds present ventral hernia
   Skin:  Warm
   Ext: No c/c/e
   Neurologic: Sleepy, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Moves all 4 extremities
   PICC: Clean dry intact
   Labs / Radiology: CT see above Chest x-ray: Mod right effusion, left
   base mild consolidation overall improved x-ray.
   8.2 g/dL
   240 K/uL
   95 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.2 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   25.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2191-5-8**]  12:10 AM
                             [**2191-5-8**]  03:06 PM
                             [**2191-5-9**]  03:00 AM
                             [**2191-5-10**]  02:48 AM
                             [**2191-5-10**]  04:14 PM
                             [**2191-5-10**]  05:35 PM
                             [**2191-5-11**]  03:30 AM
                             [**2191-5-11**]  05:29 PM
                             [**2191-5-12**]  03:17 AM
                             [**2191-5-13**]  03:48 AM
   WBC
   9.2
   6.7
   8.8
   8.7
   7.1
   7.9
   7.3
   Hct
   27.5
   25.3
   25.1
   25.8
   28.0
   28.3
   25.8
   Plt
   227
   183
   231
   [**Telephone/Fax (3) 6072**]
   240
   Cr
   0.4
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   42
   Glucose
   97
   91
   95
   136
   104
   126
   104
   95
   Other labs: PT / PTT / INR:12.8/36.0/1.1, CK / CKMB /
   Troponin-T:39//0.02, ALT / AST:[**11-11**], Alk Phos / T Bili:/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:323 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   86 F schizophrenia, atrial fibrillation, HTN initial admission with LLL
   aspiration.  Now with large transudative left pleural effusion and
   concern for trapped lung from aspiration/PNA improved oxygenation s/p
   pig tail but residual pneumothorax which is concerning for trapped lung
   Effusion pig tail
   - Chest tube to water seal will clamp it today.
   - If output less than 100cc per 24hr will remove, goal tomorrow.
   Hypotension-resolved
   -perpehenazine can cause severe hypotension but on low dose she did not
   drop her pressure yesterday afternoon
   Nose Bleed-Resolved
   -Afrin x 3 days completed no evidence of bleeding
   -NG changed to left nares
   Aspiration
   -Tube feeds per NG for now
   -Goal to place J Peg to be placed by surgery will be open so needs to
   be scheduled
   ATRIAL FIBRILLATION (AFIB)-Stable improved
   -Continue lopressor and dig
   -Will check Dig level 1 week after last.
   -not on anticoagulation at baseline
   -cont ASA
   Somolence-Improving
    -Avoid sedating meds
   Metabolic alkalosis-Improved
   -Suspect portion of contraction  stable
   Schizophrenia
   -Stable
   -Continue depakote and perphenazine may need to hold if workup for
   hypotension negative per PCP has decompensated off meds in past.  Will
   change timing of perphenazine to see if it is associated with
   hypotension
   -If hypotension with perphenazine will call Psyc consult for
   alternative regimen.  Was not hypotensive yesterday.
   Dispo-floor
   -PT started in ICU continue on floor.
   Remainder of plan per resident note.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-1**] 03:03 AM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor
   Total time spent:
   Attending Note:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   86 F schizophrenia, atrial fibrillation, HTN initial admission with
   aspiration pneumonia (probably mostly LLL), now with transudative left
   pleural effusion causing left lung atelectasis s/p catheter drainage,
   and acute hypoxic respiratory failure.
   Events noted: pigtail catheter drainage 75 cc/24 hrs on water seal. I/O
   positive 1.5 L.
   Currently stable vitals, weight kg today (admission weight 82 kg).
   Responsive when stimulated, responds to commands,  dry MM, moves 4
   extrem, lungs clear ant/lat, S1S2 reg, abd soft, NT, ND, Ext no edema.
   HCO3 32, WBC 7.3. MAPs ~57-87, HR 95-105, sat 96% on 2L nasal canula.
   IMP
   - hypoxic respiratory failure with improved O2 requirements.
   Significant improvement after effusion drained and left lung
   reexpanded.
   - Small pneumothorax. CT was reviewed with radiologist. There appears
   to have been mucus plugging the airways which, in addition to the
   effusion, was causing atelectasis. No worsening of pneumothorax on
   water seal. Will clamp and repeat CXR today.
   - Hypotension improved but with lower lopressor dose. Would keep
   positive balance.
   - Afib rate controlled on dig, lopressor. Tachycardia today likely due
   to a combination of vol depletion + lower BB dose.
   Plan
   Continue with gentle hydration, increase lopressor, consider d/c chest
   tube depending on xray, J tube likely to be put in on Monday. Rest of
   plan as detailed in Dr [**Last Name (STitle) 5967**]
s note.
   Total time 35 minutes. Full Code.